US07220856B2
Preparation of 7-Chloro-4-[4-[cyanimino(ethoxy)methyl]piperazin-1-yl]quinoline
7-Chloro-4-[4-(cyanimino(phenoxy)methyl)piperazin-1-yl]quinoline (196 mg, 0.5 mmol) and potassium tert-butoxide (62 mg, 0.55 mmol) in EtOH (5 mL) are stirred at room temp. for 4 h. The reaction mixture is concentrated, and the residue purified by column chromatography delivering the title product.

reactant | 7-Chloro-4-[4-(cyanimino(phenoxy)methyl)piperazin-1-yl]quinoline | 0.5 mmol, 196 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(OC1=CC=CC=C1)=NC#N | C21H18ClN5O
reactant | potassium tert-butoxide | 0.55 mmol, 62 mg | CC(C)([O-])C.[K+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | 7-Chloro-4-[4-[cyanimino(ethoxy)methyl]piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(OCC)=NC#N | C17H18ClN5O
